US04458079
1-[2-(4-Chlorophenylthio)-2-(2,6-dichlorobenzylthio)ethyl]-1H-imidazole Hydrochloride
A solution of 4-chlorothiophenol (2.13 g, 0.015 mole), 2,6-dichlorobenzyl mercaptan (2.90 g, 0.015 mole) and 1-(2,2-diethoxyethyl)-1H-imidazole (5.52 g, 0.03 mole) in CHCl3 (90 ml) was added to a stirred solution of boron trifluoride etherate (12 ml, 0.095 mole) and acetic acid (30 ml) in CHCl3 (60 ml). The mixture was stirred under reflux for 24 hours and concentrated. The residue was partitioned between CH2Cl2 and dilute aqueous sodium hydroxide, and the CH2Cl2 layer was dried over MgSO4 and concentrated to leave 5.6 g of a gum. High performance liquid chromatography (HPLC) employing an analytical μ-porasil column and a mixture of toluene/isooctane/2-propanol/ammonium hydroxide (100:100:2:1) as the mobile phase showed the gum to be a mixture of bases containing the title compound, 1-[2,2-bis(4-chlorophenythio)ethyl]-1H-imidazole and 1-[2,2-bis(2,6-dichlorobenzylthio)ethyl]-1 H-imidazole. A solution of the bases in acetone, when treated with 1.1 ml of concentrated hydrochloric acid, deposited 4.7 g of a mixture of hydrochloride salts. Two recrystallizations from 95% ethanol provided 1.32 g of substantially pure title compound (as shown by HPLC) with mp 195°-201°.

reactant | toluene isooctane 2-propanol ammonium hydroxide | C1(=CC=CC=C1)C.C(C)(C)CC(C)(C)C.CC(C)O.[OH-].[NH4+]
reactant | 1-[2,2-bis(4-chlorophenythio)ethyl]-1H-imidazole | ClC1=CC=C(C=C1)SC(CN1C=NC=C1)SC1=CC=C(C=C1)Cl | C17H14Cl2N2S2
reactant | 1-[2,2-bis(2,6-dichlorobenzylthio)ethyl]-1 H-imidazole | ClC1=C(CSC(CN2C=NC=C2)SCC2=C(C=CC=C2Cl)Cl)C(=CC=C1)Cl | C19H16Cl4N2S2
product | 1-[2-(4-Chlorophenylthio)-2-(2,6-dichlorobenzylthio)ethyl]-1H-imidazole Hydrochloride | Cl.ClC1=CC=C(C=C1)SC(CN1C=NC=C1)SCC1=C(C=CC=C1Cl)Cl | InChI=1S/C18H15Cl3N2S2.ClH/c19-13-4-6-14(7-5-13)25-18(10-23-9-8-22-12-23)24-11-15-16(20)2-1-3-17(15)21;/h1-9,12,18H,10-11H2;1H
